US09126931B2
6-Ethyl-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one
6-Ethynyl-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one (346 mg) was dissolved in ethanol:THF (=2:1 mixture solvent, 20 ml), added with 10% Pd/C (170 mg), and then the mixture was stirred at room temperature for 1 hr under hydrogen atmosphere. The catalyst was removed by filtration and the organic layer was concentrated under reduced pressure to obtain the title compound (322 mg, yield 91%).

reactant | 6-Ethynyl-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | 346 mg | C(#C)C=1C=C2CCC(C(C2=CC1OC)(C)C)=O | C15H16O2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | 6-Ethyl-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | 322 mg, yield 91% | C(C)C=1C=C2CCC(C(C2=CC1OC)(C)C)=O | C15H20O2
